US07138414B2
d) 1-(2-chloro-4,5-difluorobenzoyl)-3-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]urea
The solution of equivalent amounts of 2-chloro-4,5-difluorobenzoyl isocyanate was added dropwise to the solution of 95 mg of 3-(4-amino-3-trifluoromethoxyphenyl)-4H-[1,2,4]-oxadiazol-5-one hydrochloride and 0.054 ml of Hünig's base in 4 ml of acetonitrile and the mixture was stirred at room temperature for 30 minutes. The solid was then filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
reactant | 3-(4-amino-3-trifluoromethoxyphenyl)-4H-[1,2,4]-oxadiazol-5-one hydrochloride | 95 mg | Cl.NC1=C(C=C(C=C1)C1=NOC(N1)=O)OC(F)(F)F
reactant | Hünig's base | 0.054 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4,5-difluorobenzoyl)-3-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]urea | ClC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)C2=NOC(N2)=O)OC(F)(F)F)C=C(C(=C1)F)F | C17H8ClF5N4O5
